US07153859B2
8,9-Dimethoxy-6-phenyl-1,3,4,6,11,11a-hexahydro-2H-pyrazino[1,2-b]isoquinoline (the compound obtained in Example 1-(6)) (1.6 g) is dissolved in methylene chloride (10 ml), and thereto are added triethylamine (0.8 ml) and benzoyl chloride (0.6 ml) under ice-cooling, and the mixture is stirred for 30 minutes. The reaction solution is washed with a saturated aqueous sodium hydrogen carbonate solution, dried over magnesium sulfate, and concentrated under reduced pressure. The residue is purified by column chromatography on silica gel (eluent; chloroform:ethyl acetate=9:1). The resulting residue is dissolved in chloroform, and thereto is added a 4M hydrochloric acid in ethyl acetate, and the solvent is removed by evaporation under reduced pressure. The resultant is crystallized from ethyl acetate, and the crystals thus obtained are collected by filtration to give 8,9-dimethoxy-2-benzoyl-6-phenyl-1,3,4,6,11,11a-hexahydro-2H-pyrazino[1,2-b]isoquinoline hydrochloride (656 mg).

reactant | 8,9-Dimethoxy-6-phenyl-1,3,4,6,11,11a-hexahydro-2H-pyrazino[1,2-b]isoquinoline | COC=1C(=CC=2CC3N(C(C2C1)C1=CC=CC=C1)CCNC3)OC | C20H24N2O2
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.6 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 8,9-dimethoxy-2-benzoyl-6-phenyl-1,3,4,6,11,11a-hexahydro-2H-pyrazino[1,2-b]isoquinoline hydrochloride | 656 mg | Cl.COC=1C(=CC=2CC3N(C(C2C1)C1=CC=CC=C1)CCN(C3)C(C3=CC=CC=C3)=O)OC | InChI=1S/C27H28N2O3.ClH/c1-31-24-16-21-15-22-18-28(27(30)20-11-7-4-8-12-20)13-14-29(22)26(19-9-5-3-6-10-19)23(21)17-25(24)32-2;/h3-12,16-17,22,26H,13-15,18H2,1-2H3;1H
